US05607928
To a solution of the above compound (11 g; 57.6 mmol) in pyridine (20 ml) at 0° C. was added, dropwise a solution of p-toluenesulfonyl chloride (11 g; 57.7 mmol) in pyridine (20 ml). The mixture was left at ambient temperature for 15 hours, then poured into water and extracted with CH2Cl2. The organic phase was washed with 2N HCl and 0.5N NaHC3, dried over MgSO4 and evaporated to give -methoxy-1-tosyloxyimino-,1,2,3,4-tetrahydronaphthalene as a brown solid (16 g; 100%).

reactant | p-toluenesulfonyl chloride | 57.7 mmol, 11 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1,2,3,4-tetrahydronaphthalene | C1CCCC2=CC=CC=C12 | C10H12
